US07834063B2
A. 5-Bromo-2-({[4-(methyloxy)phenyl]methyl}oxy)pyridine
Synthesized as described in Example 53A from 2,5-dibromopyridine and p-methoxybenzyl alcohol with the following exceptions: the reaction was heated at reflux for 90 min, and the title compound was purified by flash chromatography (EtOAc/hexanes): 1H NMR (400 MHz, CDCl3) δ 8.21 (dd, J=2.6, 0.6 Hz, 1H), 7.64 (dd, J=8.8, 2.6 Hz, 1H), 7.38 (m, 2H, AA′XX′), 6.91 (m, 2H, AA′XX′), 6.69 (dd, J=8.9, 0.6 Hz, 1H), 5.26 (s, 2H), 3.81 (s, 3H).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | p-methoxybenzyl alcohol | COC=1C=CC(=CC1)CO | C8H10O2
product | 5-Bromo-2-({[4-(methyloxy)phenyl]methyl}oxy)pyridine | BrC=1C=CC(=NC1)OCC1=CC=C(C=C1)OC | C13H12BrNO2
